US06100272
1'-n-Butyl-5-[2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine]
The title compound was prepared from 5-[2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] (E18) and 1-bromobutane using a similar procedure to Example 19, as a yellow oil (55%). This was converted to its hydrochloride salt and crystallised from acetone as a white solid.

reactant | 5-[2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | CC1=C(C=CC(=C1)N1C(CCC1)=O)C1=CC=C(C=C1)C(=O)N1CCC=2C=C3C(=CC12)C1(CCNCC1)CO3 | C32H33N3O3
reactant | 1-bromobutane | BrCCCC | C4H9Br
product | 1'-n-Butyl-5-[2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | C(CCC)N1CCC2(CC1)COC1=CC=3CCN(C3C=C12)C(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)N1C(CCC1)=O)C | C36H41N3O3
